US06734302B2
Hydrogen chloride gas was passed through a solution of 2,4-dimethoxy-benzonitrile (5.20 g, 32 mmol) in anhydrous ethanol (200 mL) at 0° C. After 7 h, hydrogen chloride gas was stopped and the reaction mixture was stirred at room temperature overnight. The solvent was removed and the residue was triturated in diethyl ether to afford ethyl 2,4-dimethoxy-benzimidate hydrochloride (4.5 g, 57%). It was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2,4-dimethoxy-benzonitrile | 32 mmol, 5.20 g | COC1=C(C#N)C=CC(=C1)OC | C9H9NO2
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 2,4-dimethoxy-benzimidate hydrochloride | 4.5 g, 57% | Cl.COC1=C(C(OCC)=N)C=CC(=C1)OC | InChI=1S/C11H15NO3.ClH/c1-4-15-11(12)9-6-5-8(13-2)7-10(9)14-3;/h5-7,12H,4H2,1-3H3;1H
